US06262278B1
Using the (R,R)-(salen)Co(II) precatalyst of 1 (91 mg, 0.15 mmol, 0.005equiv), (+/−)-(tert-butyldimethylsilyl) glycidyl ether (5.64 g, 30.0 mmol), AcOH (32 mL, 0.6 mmol, 0.02 equiv), 0.3 mL THF, and H2O (297 mL, 16.5 mmol, 0.55 equiv) and a procedure analogous to the one outlined for 5b, (S)-(tert-butyldimethylsilyl) glycidyl ether 5c (2.72 g, 14.5 mmol, 48%) was obtained as a clear oil by vacuum distillation of the reaction mixture (30° C., 0.5 Torr). The product was determined to be present in >99% ee by derivatization through ring opening with 2-napthalenethiol in methanol using 1 equiv TEA at 0° C. and direct analysis of the 2-napthylsulfide thus obtained (Chiralcel OD, 99.25:0.75 hexanes:EtOH, 1 mL/min, 230 nm).

reactant | 2-napthalenethiol | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | methanol | 1 equiv | CO | CH4O
solvent | EtOH | CCO | C2H6O
product | 2-napthylsulfide | C1=C(C=CC2=CC=CC=C12)SC1=CC2=CC=CC=C2C=C1 | C20H14S
